US08471005B2
N-Methyl-N-[3-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino)-pyridin-2-yl]-methanesulfonamide (125.0 mg, 0.3430 mmol) was dissolved in Methylene chloride (5.00 mL, 78.0 mmol) and the solution was treated with m-Chloroperbenzoic acid (76.87 mg, 0.3430 mmol). The reaction was then allowed to stir overnight at room temperature. The reaction mixture was poured over saturated sodium bicarbonate and organics were extracted with dichloromethane. Combined extracts were then dried over sodium sulfate, filtered and reduced. The crude reaction mixture was purified by Isco flash column chromatography (hexanes/ethyl acetate eluent) and combined fractions were reduced and dried under vacuum to afford 100 mg of N-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide. 1H NMR (400 MHz, DMSO, d6) δ 9.11 (s, 1H), 8.24 (m, 1H), 8.07 (m, 1H), 7.46 (d, 1H, J=7.93 Hz), 7.33 (m, 1H), 7.26 (m, 1H), 7.14 (m, 1H), 3.23 (s, 3H), 3.18 (s, 3H), 2.89 (s, 3H).

reactant | N-Methyl-N-[3-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino)-pyridin-2-yl]-methanesulfonamide | 0.3430 mmol, 125.0 mg | CN(S(=O)(=O)C)C1=NC=CC=C1NC1=CC=C2C=NC(=NN21)SC | C14H16N6O2S2
reactant | Methylene chloride | 78.0 mmol, 5.00 mL | C(Cl)Cl | CH2Cl2
reactant | m-Chloroperbenzoic acid | 0.3430 mmol, 76.87 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide | 100 mg | CS(=O)C1=NN2C(C=N1)=CC=C2NC=2C(=NC=CC2)N(S(=O)(=O)C)C | C14H16N6O3S2
